### PR TITLE
chore(LinearAlgebra/Matrix/NonsingularInverse): generalize some lemmas from `Field` to `IsArtinianRing`

### PR DESCRIPTION
**Pull request by themathqueen**
... also fix their names.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 1]
```diff
@@ -362,14 +363,20 @@ theorem mulVec_injective_iff_isUnit {A : Matrix m m K} :
   rw [← isUnit_transpose, ← vecMul_injective_iff_isUnit]
   simp_rw [vecMul_transpose]
 
-theorem linearIndependent_rows_iff_isUnit {A : Matrix m m K} :
-    LinearIndependent K A.row ↔ IsUnit A := by
-  rw [← col_transpose, ← mulVec_injective_iff, ← coe_mulVecLin, mulVecLin_transpose,
-    ← vecMul_injective_iff_isUnit, coe_vecMulLinear]
+theorem linearIndependent_row_iff_isUnit {R : Type*} [Ring R] [IsArtinianRing R]
```
Comment (tb65536) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:366]: Does this generalize to Semirings? I did a little digging, and it seems like a few of the upstream lemmas generalize as well.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:366]: [instIsArtinianRingMatrix](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Artinian/Module.html#instIsArtinianRingMatrix) needs rings though

Comment (tb65536) [reply Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean:366]: Ah, I think you're right.

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 2]
```diff
@@ -362,14 +363,20 @@ theorem mulVec_injective_iff_isUnit {A : Matrix m m K} :
...
+    vecMul_injective_iff]
 
-theorem linearIndependent_cols_iff_isUnit {A : Matrix m m K} :
-    LinearIndependent K A.col ↔ IsUnit A := by
-  rw [← row_transpose, linearIndependent_rows_iff_isUnit, isUnit_transpose]
+@[deprecated (since := "2026-09-21")] alias linearIndependent_rows_iff_isUnit :=
+  linearIndependent_row_iff_isUnit
+
+theorem linearIndependent_col_iff_isUnit {R : Type*} [CommRing R] [IsArtinianRing R]
+    {A : Matrix m m R} : LinearIndependent R A.col ↔ IsUnit A := by
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean]: the `variable` `R` is a `CommRing`
```suggestion
theorem linearIndependent_col_iff_isUnit [IsArtinianRing R] {A : Matrix m m R} :
    LinearIndependent R A.col ↔ IsUnit A := by
```

File: Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean [hunk 3]
```diff
@@ -387,13 +394,19 @@ theorem mulVec_injective_of_invertible (A : Matrix m m K) [Invertible A] :
...
-  linearIndependent_rows_iff_isUnit.2 <| isUnit_of_invertible A
+theorem linearIndependent_row_of_invertible {R : Type*} [Ring R] [IsArtinianRing R]
+    (A : Matrix m m R) [Invertible A] : LinearIndependent R A.row :=
+  linearIndependent_row_iff_isUnit.2 <| isUnit_of_invertible A
+
+@[deprecated (since := "2026-09-21")] alias linearIndependent_rows_of_invertible :=
+  linearIndependent_row_of_invertible
+
+theorem linearIndependent_col_of_invertible {R : Type*} [CommRing R] [IsArtinianRing R]
+    (A : Matrix m m R) [Invertible A] : LinearIndependent R A.col :=
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Matrix/NonsingularInverse.lean]:
```suggestion
theorem linearIndependent_col_of_invertible [IsArtinianRing R] (A : Matrix m m R) [Invertible A] :
    LinearIndependent R A.col :=
```
